US07691929B2
A solution of 13.6 g of the cyclohexylsulfamoyl chloride (69 mmol) in 100 mL of dichloromethane is added under argon atmosphere to a solution of 1-hexadecylamine (19.9 g, 82 mmol) and triethylamine (47.5 mL, 340 mmol) in 300 mL of dichloromethane. The reaction mixture is stirred 5 hours at 0° C., neutralized with an aqueous Na2CO3 solution and concentrated under reduced pressure. The residue is taken up in dichloromethane (800 mL). The organic components are successively washed with diluted hydrochloric aqueous solution, NaHCO3 aqueous solution and brine, dried (Na2SO4), and concentrated under reduced pressure. The residue is suspended in ether, filtered through Büchner, and the precipitate is washed two times with 100 ml of ether to yield a white powder of N-cyclohexyl-N′-hexadecylsulfamide (21.8 g, 79%).

reactant | cyclohexylsulfamoyl chloride | 69 mmol, 13.6 g | C1(CCCCC1)NS(=O)(=O)Cl | C6H12ClNO2S
reactant | 1-hexadecylamine | 82 mmol, 19.9 g | C(CCCCCCCCCCCCCCC)N | C16H35N
reactant | triethylamine | 340 mmol, 47.5 mL | C(C)N(CC)CC | C6H15N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | N-cyclohexyl-N′-hexadecylsulfamide | 21.8 g, 79% | C1(CCCCC1)NS(=O)(=O)NCCCCCCCCCCCCCCCC | C22H46N2O2S
